Active_E_Field_Probe
C1 2 1 C value={C_s} vinit=0
C2 9 Amp_out C value={0.56*C_s} vinit=0
R1 1 9 R value={R_ph} noisetemp={T_op_max} noiseflow=0 dcvar=0 dcvarlot=0
R2 Amp_out vo R value=50 noisetemp={T_op_max} noiseflow=0 dcvar=0 dcvarlot=0
R3 vo 0 R value=50 noisetemp={0} noiseflow=0 dcvar=0 dcvarlot=0
V1 2 0 V value={V_in} noise=0 dc=0 dcvar=0
X1 3 4 5 6 CMOS18PD W={W1_P} L={L1_P} ID={ID1_P}
X2 Amp_out 7 0 0 CMOS18P W={W_P} L={L_P} ID={ID_P}
X3 Amp_out 7 0 0 CMOS18N W={W_N} L={L_N} ID={ID_N}
X4 0 8 7 0 CMOS18N W={W2_N} L={L2_N} ID={ID2_N}
X5 9 0 5 MP18_noise ID={ID1_P} IG={0} W={W1_P} L={L1_P}
X6 0 0 6 MP18_noise ID={ID1_P} IG={0} W={W1_P} L={L1_P}
X7 8 0 4 0 CMOS18P W={W1C_P} L={L1C_P} ID={ID1_P}
X8 0 0 3 0 CMOS18P W={W1C_N} L={L1C_N} ID={ID1_P}
.end